US06589984B1
Tetrakis(triphenylphosphine)palladium (3 mg) and dimethylaminotrimethyltin (34 mg) were added to a solution of 4-acetyloxy-3,5-dimethyl-6-(6-(trifluoromethanesulfonyloxy) benzofuran-2-yl)-2H-pyran-2-one (45 mg) in toluene (5 ml), and the mixture was stirred at 50° C. overnight. After cooling, the reaction solution was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/AcOEt=5/1) to obtain 4-acetyloxy-3,5-dimethyl-6-(6-dimethylaminobenzofuran-2-yl)-2H-pyran-2-one.

reactant | dimethylaminotrimethyltin | 34 mg | CN(C)[Sn](C)(C)C
reactant | 4-acetyloxy-3,5-dimethyl-6-(6-(trifluoromethanesulfonyloxy) benzofuran-2-yl)-2H-pyran-2-one | 45 mg | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=CC(=C2)OS(=O)(=O)C(F)(F)F)=O)C | C18H13F3O8S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium | 3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-acetyloxy-3,5-dimethyl-6-(6-dimethylaminobenzofuran-2-yl)-2H-pyran-2-one | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=CC(=C2)N(C)C)=O)C | C19H19NO5
